US07700655B2
(2) 5-Chloro-2-hydroxy-N-[4-(2,4-dichlorophenyl)thiazol-2-yl]benzamide (Compound No. 534)
Using 5-chlorosalicylic acid and 2-amino-4-(2,4-dichlorophenyl)thiazole as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-amino-4-(2,4-dichlorophenyl)thiazole | NC=1SC=C(N1)C1=C(C=C(C=C1)Cl)Cl | C9H6Cl2N2S
product | 5-Chloro-2-hydroxy-N-[4-(2,4-dichlorophenyl)thiazol-2-yl]benzamide | Yield: 8.0% | ClC=1C=CC(=C(C(=O)NC=2SC=C(N2)C2=C(C=C(C=C2)Cl)Cl)C1)O | C16H9Cl3N2O2S
